US05977152
4-(Acetylthio)piperidine hydrochloride
In 45 ml of ethyl acetate were dissolved 1.25 g (4.82 mmol) of 4-(acetylthio)-1-(tert-butoxycarbonyl)piperidine as described in Reference example 11, and 12.0 ml (48.2 mmol) of a 4N hydrogen chloride-ethyl acetate solution were added to the solution, followed by stirring of the resulting mixture at 50° C. for 4 hours. After cooling, the precipitated solid was collected by filtration and washed with hexane to obtain 885 mg (yield: 94%) of the desired compound as a slightly yellow powder.

reactant | 4-(acetylthio)-1-(tert-butoxycarbonyl)piperidine | 4.82 mmol, 1.25 g | C(C)(=O)SC1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO3S
reactant | hydrogen chloride-ethyl acetate | 4N | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 45 ml | C(C)(=O)OCC | C4H8O2
product | 4-(Acetylthio)piperidine hydrochloride | 885 mg, yield: 94% | Cl.C(C)(=O)SC1CCNCC1 | InChI=1S/C7H13NOS.ClH/c1-6(9)10-7-2-4-8-5-3-7;/h7-8H,2-5H2,1H3;1H
